US04444773
7-methyl-5H-thiazolo[3,2-a]pyrimidine-5-one, m.p. 127°-129° C., (4 g), prepared according to Example 1 using ethyl acetoacetate, dissolved in benzene (100 ml) was reacted with N-bromo-succinimide (4.7 g) under stirring at room temperature for 1 hour. The precipitate was dissolved by adding chloroform and the solution was washed with water: evaporation in vacuo to dryness and crystallization of the residue from methanol gave 6-bromo-7-methyl-5H-thiazolo[3,2-a]pyrimidine-5-one, m.p. 233°-234° C. (5.1 g), which was reacted with 3-pyridine-carboxaldehyde (3.4 g) in methanol (190 ml) in the presence of sodium methoxide (2.2 g) under stirring at the reflux temperature for 2 hours. After cooling the precipitate was filtered and washed with water until neutral: crystallization from CH2Cl2 -methanol gave 5.18 g of 6-bromo-7-trans-[2-(3-pyridyl)-ethenyl]-5H-thiazolo[3,2-a]pyrimidine-5-one, m.p. 208°-209° C., NMR (CDCl3) δppm: 6.99 (d) (1H, C-2 proton), 7.33 (dd) (1H, C-5 pyridyl proton), 7.59 (d) (1H, β-ethenyl proton), 7.95 (d) (1H, α-ethenyl proton), 7.96 (d) (1H, C-3 proton), 7.98 (m) (1H, C-4 pyridyl proton), 8.58 (bd) (1H, C-6 pyridyl proton), 8.82 (bs) (1H, C-2 pyridyl proton); JHαHβ =16 Hz.

reactant | 7-methyl-5H-thiazolo[3,2-a]pyrimidine-5-one | CC=1N=C2N(C(C1)=O)C=CS2 | C7H6N2OS
reactant | ethyl acetoacetate | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | N-bromo-succinimide | 4.7 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 6-bromo-7-methyl-5H-thiazolo[3,2-a]pyrimidine-5-one | BrC1=C(N=C2N(C1=O)C=CS2)C | C7H5BrN2OS
